US08222249B2
To a solution of NaI (1.6 g, 11.09 mmol) in dry acetonitrile (8 mL) was added dropwise 1-tert-butyl 4-chloromethyl piperidine-1,4-dicarboxylate (2.8 g, 10.08 mmol) in 2 mL of acetonitrile. The mixture turned dark orange and was stirred at rt in the dark for 24 h. The reaction mixture was filtered to remove NaCl and the filtrate was concentrated in vacuo. The remaining residue was partitioned between DCM and 5% aq NaHSO3 solution. The organic layer was washed with water and brine, dried (Na2SO4), and concentrated in vacuo to give 1-tert-butyl 4-iodomethyl piperidine-1,4-dicarboxylate as a pale yellow oil (3.5 g, 94%). Attempts to characterize by NMR in DMSO-d6 resulted in rapid decomposition. The material was stored in the dark at −20° C. to minimize decomposition before further use. LCMS: MH=370.

reactant | NaI | 11.09 mmol, 1.6 g | [Na+].[I-]
reactant | 1-tert-butyl 4-chloromethyl piperidine-1,4-dicarboxylate | 10.08 mmol, 2.8 g | N1(CCC(CC1)C(=O)OCCl)C(=O)OC(C)(C)C | C12H20ClNO4
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-tert-butyl 4-iodomethyl piperidine-1,4-dicarboxylate | 3.5 g, 94% | N1(CCC(CC1)C(=O)OCI)C(=O)OC(C)(C)C | C12H20INO4
